US06133258
The reaction procedure of Example 57 was followed except that 1.339 g (8.5 mmol) of 2-chloronicotinic acid, 13 ml of thionyl chloride, two droplets of DMF, 680 mg of ammonium isothiocyanate, 13 ml of acetone, 2.473 g of 6,8-dibromo-1,2,3,4-tetrahydroquinoline and 8 ml of acetone were used. The product was then recrystallized from a mixture of ethanol and hexane to obtain 2.244 g of 2-(1,2,3,4-tetrahydroquinolin-1-yl)-4H-pyrido[3,2-e]-1,3-thiazin-4-one monohydrate.

reactant | 2-chloronicotinic acid | 8.5 mmol, 1.339 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | thionyl chloride | 13 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium isothiocyanate | 680 mg | [N-]=C=S.[NH4+]
reactant | 6,8-dibromo-1,2,3,4-tetrahydroquinoline | 2.473 g | BrC=1C=C2CCCNC2=C(C1)Br | C9H9Br2N
solvent | acetone | 8 ml | CC(=O)C | C3H6O
solvent | acetone | 13 ml | CC(=O)C | C3H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(1,2,3,4-tetrahydroquinolin-1-yl)-4H-pyrido[3,2-e]-1,3-thiazin-4-one monohydrate | 2.244 g | O.N1(CCCC2=CC=CC=C12)C=1SC2=C(C(N1)=O)C=CC=N2 | InChI=1S/C16H13N3OS.H2O/c20-14-12-7-3-9-17-15(12)21-16(18-14)19-10-4-6-11-5-1-2-8-13(11)19;/h1-3,5,7-9H,4,6,10H2;1H2
